US04118494
(a) N-(2,2-diphenyl-4-diisopropylamino-butyl)-carbamic acid ethyl ester
From 2,2-diphenyl-4-diisopropylamino-butyl-amine in analogy to 3a. The urethane was used in a crude state.

reactant | 2,2-diphenyl-4-diisopropylamino-butyl-amine | C1(=CC=CC=C1)C(CN)(CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C22H32N2
reactant | urethane | NC(=O)OCC | C3H7NO2
product | N-(2,2-diphenyl-4-diisopropylamino-butyl)-carbamic acid ethyl ester | C(C)OC(NCC(CCN(C(C)C)C(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H36N2O2
